US08975443B2
1-Phenyl-3-p-tolylurea
In a nitrogen-atmosphere glovebox, a microwave vial equipped with a magnetic stir bar was charged with phenylurea (100 mg, 0.734 mmol, 1 equivalent), potassium phosphate (234 mg, 1.10 mmol, 1.5 equivalents), tris(dibenzylideneacetone)dipalladium(0) (Pd2dba3) (6.7 mg, 0.00734 mmol, 0.01 equivalents) and phosphine ligand (0.029 mmol, 0.04 equivalents). Then 1,2-dimethoxyethane (1.34 mL) was syringed into the vial. After stirring the mixture for 1 hour at room temperature, 4-chlorotoluene (96 μL, 0.808 mmol, 1.1 equivalents) was added. The vial was sealed with a crimp top and placed in a heating block at 85° C. After 15 hours, the reaction vial was cooled to room temperature and brought out of the glovebox. The reaction solution was diluted with dimethylformamide (0.6 mL) and stirred for 15 minutes. The slurry was then filtered through a pad of diatomaceous earth. The vial was rinsed with dimethylformamide (0.6 mL) before passing through the filter. The combined filtrate was concentrated on a rotary evaporator to furnish an orange oil. A 1:1 mixture of methanol:water (3.5 mL) was added dropwise to the crude concentrate, leading to the precipitation of product. The solids were collected by filtration and washed with 1:1 methanol:water (3 mL). The isolated product urea was dried in a vacuum oven for 6 hours at 60° C./150 mm Hg. (literature reference: Kotecki B J, et al. Org. Lett. 2009; 11: 947-950). 1H NMR (400 MHz, DMSO-d6) δ ppm 8.52 (t, J=22.7 Hz, 2H), 7.42 (dd, J=8.5, 1.0 Hz, 2H), 7.31 (t, J=5.4 Hz, 2H), 7.26 (dd, J=10.7, 5.2 Hz, 2H), 7.07 (d, J=8.2 Hz, 2H), 6.95 (dd, J=10.5, 4.2 Hz, 1H), 2.24 (s, 3H).

reactant | phenylurea | 0.734 mmol, 100 mg, 1 equivalent | C1(=CC=CC=C1)NC(=O)N | C7H8N2O
reactant | potassium phosphate | 1.10 mmol, 234 mg, 1.5 equivalents | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | phosphine | 0.029 mmol, 0.04 equivalents | P | H3P
reactant | 4-chlorotoluene | 0.808 mmol, 96 μL, 1.1 equivalents | ClC1=CC=C(C=C1)C | C7H7Cl
solvent | dimethylformamide | 0.6 mL | CN(C=O)C | C3H7NO
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.00734 mmol, 6.7 mg, 0.01 equivalents | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | 3.5 mL | O | H2O
solvent | methanol | CO | CH4O
solvent | 1,2-dimethoxyethane | 1.34 mL | COCCOC | C4H10O2
product | 1-Phenyl-3-p-tolylurea | C1(=CC=CC=C1)NC(=O)NC1=CC=C(C=C1)C | C14H14N2O
